US04927807
a. 2-t-Butyloxycarbonylamino-1-cyclohexylbut-3-ene
To a stirred suspension of methyltriphenyl phosphonium bromide (10.97 g, 30.70 mmol) in anhydrous tetrahydrofuran (200 ml) at -78° C. (dry ice/acetone bath) under an argon atmosphere, was added n-butyl lithium (19.8 ml of a 1.55 M hexane solution) dropwise over the course of 5 minutes. After 10 minutes, the -78° C. bath was replaced with a 0° C. bath for one-half hour, at which time the resulting orange solution was cooled again to -78° C. The solution was then added dropwise by cannula to a stirred -78° C. solution of Boc-cyclohexylalaninal (27.91 mmol) in anhydrous tetrahydrofuran (30 ml) over the course of one-half hour. The mixture was then allowed to warm to room temperature during a 3 hour period after which water (150 ml) was added. Extraction with hexane (4×100 ml) provided a combined organic phase which was washed with brine (100 ml), dried (Na2SO4), and concentrated to give crude product. Chromatography with ether/hexane (1/9) provided the pure desired compound. Mass spectrum: (M+H)+ =254.

reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 1.55 M | CCCCCC | C6H14
reactant | Boc-cyclohexylalaninal | 27.91 mmol | C(=O)(OC(C)(C)C)N([C@@H](C)C=O)C1CCCCC1 | C14H25NO3
catalyst | methyltriphenyl phosphonium bromide | 30.70 mmol, 10.97 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ether hexane | CCOCC.CCCCCC
solvent | water | 150 ml | O | H2O
product | 2-t-Butyloxycarbonylamino-1-cyclohexylbut-3-ene | C(C)(C)(C)OC(=O)NC(CC1CCCCC1)C=C | C15H27NO2
